US04032601
Bis(2-chloroethyl) 1-(p-chlorophenylsulfonylamino)ethylphosphonate
When a mixture of 32.3 g of tris(2-chloroethyl phosphite, 5.8 g of freshly distilled acetaldehyde, 22.0 g of p-chlorobenzenesulfonamide, and 3.0 g of acetic acid in 100 g of chlorobenzene is stirred and warmed, heat of reaction is observed at about 90°. The temperature is kept at 95°-103° for 1 hr, and then the solvent and by-product are removed at reduced pressure. Ether is added to the residue, causing a solid to separate. This is washed with water and recrystallized from isopropyl alcohol, giving 12.4 g of white solid product: mp 94.5°-98°; 31P nmr (DMSO-d6)- 24.0 ppm.

reactant | 2-chloroethyl phosphite | P(OCCCl)([O-])[O-]
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | p-chlorobenzenesulfonamide | 22.0 g | C1=CC(=CC=C1S(=O)(=O)N)Cl | C6H6ClNO2S
reactant | acetic acid | 3.0 g | C(C)(=O)O | C2H4O2
reactant | chlorobenzene | 100 g | ClC1=CC=CC=C1 | C6H5Cl
product | Bis(2-chloroethyl) 1-(p-chlorophenylsulfonylamino)ethylphosphonate | 12.4 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C)P(OCCCl)(OCCCl)=O | C12H17Cl3NO5PS
